US04788210
A solution of 39.2 g of triethyloxonium tetrafluoroborate in 325 ml of methylene chloride is treated with 32.5 g of o-trifluoromethyl-benzamide. After stirring at room temperature for 48 hours the reaction mixture is poured on to a mixture of 10% sodium carbonate solution and ice and the resulting mixture is extracted three times with methylene chloride. The combined extracts are then washed twice with 10% sodium carbonate solution, dried over anhydrous sodium sulphate and evaporated under reduced pressure. The oily, brown residue is distilled in a high vacuum. There is obtained pure ethyl o-trifluoromethyl-benzimidate, b.p. 67° C./0.15 mmHg.

reactant | triethyloxonium tetrafluoroborate | 39.2 g | F[B-](F)(F)F.C(C)[O+](CC)CC
reactant | o-trifluoromethyl-benzamide | 32.5 g | FC(C1=C(C(=O)N)C=CC=C1)(F)F | C8H6F3NO
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methylene chloride | 325 ml | C(Cl)Cl | CH2Cl2
product | ethyl o-trifluoromethyl-benzimidate | FC(C1=C(C(OCC)=N)C=CC=C1)(F)F | C10H10F3NO
